US08026242B2
(4-Cyclopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone
(4-Morpholin-4-ylmethyl-phenyl)-piperazin-1-yl-methanone. A solution of 4-(4-morpholin-4-ylmethyl-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester (1.163 g) in CH2Cl2 (10 mL) was treated with TFA (−4 mL). After 30 min, additional TFA (5 mL) was added, and the mixture was stirred for a further 2 h. The mixture was diluted with diluted with satd. aq. NaHCO3 and extracted with CH2Cl2. The organic layer was dried (Na2SO4) and concentrated. The residue was purified by column chromatography (SiO2) to give the title compound (0.255 g, 30%). MS (ESI): mass calcd. for C16H23N3O2, 289.18; m/z found, 290.4 [M+H]+. 1H NMR (CDCl3): 7.41-7.35 (m, 4H), 3.95-3.70 (m, 6H), 3.52 (s, 2H), 3.09-2.80 (m, 6H), 2.49-2.42 (m, 4H). Step D. A solution of (4-morpholin-4-ylmethyl-phenyl)-piperazin-1-yl-methanone (0.128 g) in methanol (7.5 mL) was treated with (1-ethoxy-cyclopropoxy)-trimethyl-silane (1.5 mL), acetic acid (0.2 mL), and NaBH3CN (˜400 mg). The mixture was heated at 60° C. for 18 h, and then was cooled to rt and concentrated. The residue was diluted with 1 N NaOH and extracted with CH2Cl2. The organic layer was dried (Na2SO4) and concentrated. The residue was purified by column chromatography (SiO2) to give the title compound (0.0548 g, 38%). MS (ESI): mass calcd. for C19H27N3O2, 329.21; m/z found, 330.4 [M+H]+. 1H NMR (CDCl3): 7.36 (s, 4H), 3.79-3.68 (m, 6H), 3.50 (s, 2H), 3.44-3.32 (m, 2H), 2.74-2.61 (m, 2H), 2.60-2.50 (s, 2H), 2.45-2.40 (m, 4H), 1.66-1.62 (m, 1H), 0.49-0.44 (m, 2H), 0.44-0.39 (m, 2H). Alternative Preparation of Example 1.

reactant | (4-Morpholin-4-ylmethyl-phenyl)-piperazin-1-yl-methanone | N1(CCOCC1)CC1=CC=C(C=C1)C(=O)N1CCNCC1 | C16H23N3O2
reactant | 4-(4-morpholin-4-ylmethyl-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester | 1.163 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=CC=C(C=C1)CN1CCOCC1)=O | C21H31N3O4
reactant | TFA | −4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (4-Cyclopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone | 0.255 g, 30% | C1(CC1)N1CCN(CC1)C(=O)C1=CC=C(C=C1)CN1CCOCC1 | C19H27N3O2
